US09445594B2
Preparation of 1-(4-methoxy-2-methylphenyl)-3-(4-(1-(4-(perfluoroethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzyl)thiourea (F111)
To a solution of (4-(1-(4-(perfluoroethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)methanamine (0.075 mg, 0.20 mmol) in dry tetrahydrofuran (1 mL) was added 1-isothiocyanato-4-methoxy-2-methylbenzene (0.052 mg, 0.29 mmol) and the resulting mixture was stirred at 50° C. for 24 hours. The mixture was concentrated under reduced pressure to give a brown residue, which was purified by flash column chromatography eluting with mixtures of hexanes and ethyl acetate to afford the title compound as a white solid (0.050 g, 46%).

reactant | (4-(1-(4-(perfluoroethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)methanamine | 0.20 mmol, 0.075 mg | FC(C(F)(F)F)(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)CN)F | C17H13F5N4O
reactant | 1-isothiocyanato-4-methoxy-2-methylbenzene | 0.29 mmol, 0.052 mg | N(=C=S)C1=C(C=C(C=C1)OC)C | C9H9NOS
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 1-(4-methoxy-2-methylphenyl)-3-(4-(1-(4-(perfluoroethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzyl)thiourea | 0.050 g, 46% | COC1=CC(=C(C=C1)NC(=S)NCC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(C(F)(F)F)(F)F)C | C26H22F5N5O2S
